** sch_path: /foss/designs/ICONS2026/xschem/tb_boot_bottom_0.sch
**.subckt tb_boot_bottom_0
Vi2 net1 GND sin({viq} vamp fin 0)
x1 net3 VDD VSS p2 sg13g2_inv_4
x2 net2 VDD VSS p1 sg13g2_inv_4
x3 trackb net2 VDD VSS net3 sg13g2_nand2_2
x4 net3 track VDD VSS net2 sg13g2_nand2_2
x5 track VDD VSS trackb sg13g2_inv_2
Vtrk net4 GND pulse(0 vdd 0 trf trf {per/2} per 0)
Vsup vdd GND vdd
Vsup1 vss GND 0
R1 net1 vi rs m=1
Cp vc votap cl m=1
G1 vo GND votap GND 100e-3
S7 vo vc p2 GND SW1
Cp3 vo GND cl m=1
S8 votap GND track GND SW1
S10 vo GND p1 GND SW1
Cp5 votap GND 100f m=1
R2 track net4 1k m=1
x6 vdd p1 p2 vc vi boot0
**** begin user architecture code


.lib cornerMOSlv.lib mos_tt
.inc /foss/pdks/ihp-sg13g2/libs.ref/sg13g2_stdcell/spice/sg13g2_stdcell.spice
.param vdd=1.2 viq=0.6 vamp=0.3
.param cl=1.3p cb=1p cp=50f w=29u ng=5
.param ndft=31 npad=5 bin=5 fclk=500e6 runs=15
.param per=1/fclk fin=fclk*bin/ndft trf=100p
.param vh=0 rsw=10 roff=1e9 rs=10

.csparam per=per runs=runs
.csparam tstop1 = 4*per
.csparam tstop2 = per*(ndft+npad)
.option method=trap reltol=1e-5 chgtol=1e-16

.control
    tran 1n $&tstop1
    write tb_boot_bottom_0.raw
    option numdgt=9
    set wr_singlescale
    set wr_vecnames
    compose bin_vec start=1 stop=$&runs step=1
    foreach i $&bin_vec
      alterparam bin=$i
      reset
      tran 10p $&tstop2 0
      let lin-tstep = $&per
      let lin-tstart = 1.9n
      linearize
      wrdata tb_boot_bottom_0.txt v(vi) v(vo)
      destroy all
      set appendwrite
      unset wr_vecnames
    end
    unset appendwrite
.endc


**** end user architecture code
**.ends

* expanding   symbol:  boot0.sym # of pins=5
** sym_path: /foss/designs/ICONS2026/xschem/boot0.sym
** sch_path: /foss/designs/ICONS2026/xschem/boot0.sch
.subckt boot0 vdd p1 p2 vo vi
*.ipin vi
*.opin vo
*.ipin p2
*.ipin p1
*.iopin vdd
Cm1 vtop vbot {cb} m=1
S1 vbot GND p2 GND SW1
S2 vdd vtop p2 GND SW1
S3 vg vtop p1 GND SW1
S4 vi vbot p1 GND SW1
S5 GND vg p2 GND SW1
Cp4 vg GND cp m=1
S6 vo vi p1 GND SW1
.ends

.GLOBAL GND
**** begin user architecture code
.MODEL SW1 SW
+ VT=0.6 VH=vh
+ RON=rsw ROFF=roff
**** end user architecture code
.end
