** sch_path: /foss/designs/ICONS2026/xschem/tb_boot_bottom_diff_3.sch
**.subckt tb_boot_bottom_diff_3
Cp1 p2 vss 0.1f m=1
Cp2 p1 vss 10f m=1
x1 net2 VDD VSS p2 sg13g2_inv_8
x2 net1 VDD VSS p1 sg13g2_inv_8
x3 trackb net1 VDD VSS net2 sg13g2_nand2_2
x4 net2 track VDD VSS net1 sg13g2_nand2_2
x5 track VDD VSS trackb sg13g2_inv_2
Vtrk net3 GND pulse(0 vdd 0 trf trf {per/2} per 0)
Vsup vdd GND vdd
Vsup1 vss GND 0
Cp vcp votap cl m=1
G1 vop GND votap GND 100e-3
S7 vop vcp p2 GND SW1
Cp3 vop GND cl m=1
S8 votap GND track GND SW1
S10 vop GND p1 GND SW1
Cp5 votap GND 100f m=1
R2 track net3 1k m=1
x6 vdd p1 p2 vcp vip boot4
E1 vsp vsc vsd GND 0.5
E2 vsn vsc vsd GND -0.5
Vcm vsc GND vcm
Vdm vsd GND sin(0 vamp fin 0)
Rp vsp vip rs m=1
Rm vin vsn rs m=1
Cp4 vcn votan cl m=1
G2 von GND votan GND 100e-3
S1 von vcn p2 GND SW1
Cp6 von GND cl m=1
S2 votan GND track GND SW1
S3 von GND p1 GND SW1
Cp7 votan GND 100f m=1
x7 vdd p1 p2 vcn vin boot4
**** begin user architecture code


.lib cornerMOSlv.lib mos_tt
.inc /foss/pdks/ihp-sg13g2/libs.ref/sg13g2_stdcell/spice/sg13g2_stdcell.spice
.param vdd=1.2 vcm=0.6 vamp=0.6
.param cl=1.3p cb=500f cp=1f w=29u ng=4
.param w4=15u ng4=3 w5=6u ng5=1 w6=4u ng6=1 cw6=3.4f
.prama wa=1u wb=1u wc=1u w2=1u w3=1u cw2=1f
.param ndft=31 npad=5 bin=5 fclk=500e6 runs=15
.param per=1/fclk fin=fclk*bin/ndft trf=100p
.param vh=0 rsw=20 roff=1e9 rs=10

.csparam per=per runs=runs
.csparam tstop1 = 4*per
.csparam tstop2 = per*(ndft+npad)
.option method=trap chgtol=1e-16 reltol=1e-5

.control
    tran 1n $&tstop1
    write tb_boot_bottom_diff.raw
    option numdgt=9
    set wr_singlescale
    set wr_vecnames
    compose bin_vec start=1 stop=$&runs step=1
    foreach i $&bin_vec
      alterparam bin=$i
      reset
      tran 10p $&tstop2 0
      let lin-tstep = per
      let lin-tstart = 1.9n
      linearize
      wrdata tb_boot_bottom_diff.txt v(vip) v(vop) v(von)
      destroy all
      set appendwrite
      unset wr_vecnames
    end
    unset appendwrite
.endc


**** end user architecture code
**.ends

* expanding   symbol:  boot4.sym # of pins=5
** sym_path: /foss/designs/ICONS2026/xschem/boot4.sym
** sch_path: /foss/designs/ICONS2026/xschem/boot4.sch
.subckt boot4 vdd p1 p2 vo vi
*.ipin vi
*.opin vo
*.ipin p2
*.iopin vdd
*.ipin p1
Cm1 vtop vbot cb m=1
XM1 vi vg vo GND sg13_lv_nmos w=w l=0.13u ng=ng m=1
XM8 vg vdd net1 GND sg13_lv_nmos w=w4 l=0.13u ng=ng4 m=1
XM4 net1 p2 GND GND sg13_lv_nmos w=w4 l=0.13u ng=ng4 m=1
XM6 vbot p2 GND GND sg13_lv_nmos w=w6 l=0.13u ng=ng6 m=1
XM5 vtop vg vdd vtop sg13_lv_pmos w=w5 l=0.13u ng=ng5 m=1
Cw6 vtop GND {cw6+cw4} m=1
XM3 vbot vg vi GND sg13_lv_nmos w=w3 l=0.13u ng=1 m=1
XM2 vtop vg2 vg vtop sg13_lv_pmos w=w2 l=0.13u ng=ng5 m=1
XMb vg2 p1 vdd vdd sg13_lv_pmos w=wb l=0.13u ng=1 m=1
XMa vg2 p1 vbot GND sg13_lv_nmos w=wa l=0.13u ng=1 m=1
XMc vg2 vg vbot GND sg13_lv_nmos w=wc l=0.13u ng=1 m=1
.ends

.GLOBAL GND
**** begin user architecture code
.MODEL SW1 SW
+ VT=0.6 VH=vh
+ RON=rsw ROFF=roff
**** end user architecture code
.end
